US09422331B2
A rt solution of tert-butyl(S)-1-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate (55 mg, 79.5 μmol) in 4 M HCl in dioxane (398 μl) was stirred for 1 h. The reaction was diluted with Et2O and the solids were collected by vacuum filtration, taken up in MeCN—H2O, and lyophilized to provide (S)-N-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride (41.6 mg, 83%) as a white solid. MS m/z 592 (MH)+.

reactant | tert-butyl(S)-1-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-ylamino)-1-oxopropan-2-yl(methyl)carbamate | 79.5 μmol, 55 mg | C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](C)N(C(OC(C)(C)C)=O)C)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | C35H41N5O8S
reactant | HCl | 4 M | Cl | ClH
solvent | dioxane | 398 μl | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
product | (S)-N-((3S,4S)-7-cyano-1-((2-methoxynaphthalen-1-yl)methyl)-4-methyl-5-(2-(methylsulfonyl)acetyl)-2-oxo-2,3,4,5-tetrahydro-1H-benzo[b][1,4]diazepin-3-yl)-2-(methylamino)propanamide hydrochloride | 41.6 mg, 83% | Cl.C(#N)C1=CC2=C(N(C([C@H]([C@@H](N2C(CS(=O)(=O)C)=O)C)NC([C@H](C)NC)=O)=O)CC2=C(C=CC3=CC=CC=C23)OC)C=C1 | InChI=1S/C30H33N5O6S.ClH/c1-18(32-3)29(37)33-28-19(2)35(27(36)17-42(5,39)40)25-14-20(15-31)10-12-24(25)34(30(28)38)16-23-22-9-7-6-8-21(22)11-13-26(23)41-4;/h6-14,18-19,28,32H,16-17H2,1-5H3,(H,33,37);1H/t18-,19-,28-;/m0./s1
